US07737166B2
7-Fluoro-5-methyl-2-(2-nitrophenyl)-6-phenyl-1,3-benzoxazole-4-carbonitrile (I-210)
Diisopropylethylamine (523 μl, 3 mmol) was added to a dichloromethane (10 ml) solution of 4-amino-6-fluoro-5-hydroxy-2-methyl-biphenyl-3-carbonitrile (I-41) (485 mg, 2.0 mmol), and after cooling with ice, 2-nitrobenzoyl chloride (408 mg, 2.2 mmol) was added, followed by stirring at the same temperature for 1 hour. With cooling with ice, water was added, followed by extraction with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, then the solvent was evaporated away under reduced pressure. In xylene (30 ml) in the presence of a catalytic amount of p-tosylic acid, the resulting residue was heated under reflux for 16 hours with a Dean-Stark device. After cooling, the solvent was evaporated away, and the resulting residue was dissolved in chloroform, washed with saturated sodium bicarbonate water, then dried over anhydrous sodium sulfate, and the solvent was evaporated away under reduced pressure. The resulting residue was subjected to silica gel column chromatography. Elution with chloroform gave the entitled compound (576 mg, 77%) as a colorless solid.

reactant | Diisopropylethylamine | 3 mmol, 523 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dichloromethane | 10 ml | ClCCl | CH2Cl2
reactant | 4-amino-6-fluoro-5-hydroxy-2-methyl-biphenyl-3-carbonitrile | 2.0 mmol, 485 mg | NC1=C(C(=C(C(=C1O)F)C1=CC=CC=C1)C)C#N | C14H11FN2O
reactant | 2-nitrobenzoyl chloride | 2.2 mmol, 408 mg | [N+](=O)([O-])C1=C(C(=O)Cl)C=CC=C1 | C7H4ClNO3
solvent | water | O | H2O
product | 7-Fluoro-5-methyl-2-(2-nitrophenyl)-6-phenyl-1,3-benzoxazole-4-carbonitrile | 576 mg, 77% | FC=1C(=C(C(=C2N=C(OC21)C2=C(C=CC=C2)[N+](=O)[O-])C#N)C)C2=CC=CC=C2 | C21H12FN3O3
